US08012956B2
To a solution of 4-piperidin-4-ylbenzamide (200 mg, 1.00 mmol), 37% aqueous formaldehyde (162 μL, 2.00 mmol), and acetic acid (86 uL, 1.5 mmol) in a mixture of dichloromethane and methanol (2:1, 6 mL) was added sodium triacetoxylborohydride (318 mg, 1.5 mmol) in portions over fifteen minutes and stirring was continued for 2 hr at room temperature. The reaction was then quenched with water and adjusted to pH 9 with 2N aqueous sodium hydroxide then extracted with dichloromethane (2×50 ml). The organic extracts were combined and dried over sodium sulfate, filtered and concentrated to give 4-(1-methylpiperidin-4-yl)benzamide (190 mg, 87%). MS (EI) for C13H18N2O: 218 (MH+).

reactant | 4-piperidin-4-ylbenzamide | 1.00 mmol, 200 mg | N1CCC(CC1)C1=CC=C(C(=O)N)C=C1 | C12H16N2O
reactant | formaldehyde | 2.00 mmol, 162 μL | C=O | CH2O
reactant | acetic acid | 1.5 mmol, 86 uL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxylborohydride | 1.5 mmol, 318 mg | O(C(=O)C)[BH-](OC(=O)C)OC(=O)C.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | 6 mL | CO | CH4O
product | 4-(1-methylpiperidin-4-yl)benzamide | 190 mg, 87% | CN1CCC(CC1)C1=CC=C(C(=O)N)C=C1 | C13H18N2O
